US07163947B2
A solution of 2-ethoxymethyl-1-(morpholin-4-yl)-1H-imidazo[4,5-c]quinoline (1.61 g, 5.51 mmol) in 40 mL of CH2Cl2 was treated with MCPBA (1.78 g, 6.70 mmol, 77% max). After 30 min, the reaction mixture was treated with 20 mL of concentrated NH4OH solution and p-toluenesulfonyl chloride (1.03 g, 5.41 mmol). After 15 min, the reaction mixture was diluted with CH2Cl2 and water and the phases were separated. The organic portion was washed with 5% Na2CO3 solution, water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield a tan foam. Chromatography (SiO2, 97:3 CHCl3:MeOH) gave a light yellow foam. The foam was triturated with diethyl ether and filtered to give 2-ethoxymethyl-1-(morpholin-4-yl)-1H-imidazo[4,5-c]quinolin-4-amine (0.794 g) as a light cream colored solid. mp 223–224° C.;

reactant | 2-ethoxymethyl-1-(morpholin-4-yl)-1H-imidazo[4,5-c]quinoline | 5.51 mmol, 1.61 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)N1CCOCC1 | C17H20N4O2
reactant | MCPBA | 6.70 mmol, 1.78 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NH4OH | 20 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 5.41 mmol, 1.03 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | MeOH | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxymethyl-1-(morpholin-4-yl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.794 g | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)N1CCOCC1 | C17H21N5O2
